US07700366B2
6,13-bis(triisopropylsilylethynyl)pentacene (101)
Under an atmosphere of argon, 16.2 mL of n-butyllithium (40.5 mmol, 2.5 M solution in hexane) was added dropwise to 9.1 mL (40.5 mmol) of triisopropylsilyl acetylene in 50 mL of dry tetrahydrofuran at 0° C. The mixture was kept at 0° C. for another 40 min before it was transferred to a solution of 6,13-pentacenequinone (5 g, 16.2 mmol) in 50 mL of dry tetrahydrofuran at 0° C. The mixture was warmed to room temperature and stirred overnight. The reaction was quenched with 15 mL of 10% HCl and then subjected to a CHCl3/H2O workup. The solvent was removed and the resulting solid was collected by filtration. This crude solid was dissolved in 50 mL of acetone and then a solution of tin(II) chloride dihydrate (9.2 g, 40.5 mmol) in 50% of acetic acid (50 mL) was added dropwise. This mixture was stirred at room temperature for another 24 h. The resulting blue solid product was filtered. The solid was then dissolved in hexane and washed with water and sodium bicarbonate and then dried over magnesium sulfate. The hexane solution is then poured onto a silica plug, which is flushed with hexane (200 mL), followed by 9:1 hexane/methylene chloride to elute a deep blue solid (8.8 g, 92%): m.p. 220-221° C.; 1H NMR (300 MHz, CDCl3): 9.31 (s, 4H), 7.98 (dd, J=6.6 and 3.0 Hz, 4H), 7.42 (dd, J=6.6 and 3.0 Hz, 4H), 1.39 (s, 42H); HR-MS (EI) calcd. for C44H54Si2 (M+): 638.38, found: 638.37. (lit. m.p. 210° C., Anthony, J. E.; Brooks, J. S.; Eaton, D. L.; Parkin, S. R. J. Am. Chem. Soc. 2001, 123, 9482-9483)

reactant | n-butyllithium | 40.5 mmol, 2.5 M, 16.2 mL | C(CCC)[Li]
reactant | triisopropylsilyl acetylene | 40.5 mmol, 9.1 mL | C(C)(C)[Si](C(C)C)(C(C)C)C#C | C11H22Si
reactant | 6,13-pentacenequinone | 16.2 mmol, 5 g | C1=CC=CC2=CC=3C(C4=CC5=CC=CC=C5C=C4C(C3C=C12)=O)=O | C22H12O2
reactant | tin(II) chloride dihydrate | 40.5 mmol, 9.2 g | O.O.[Sn](Cl)Cl
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 6,13-bis(triisopropylsilylethynyl)pentacene | C(C)(C)[Si](C(C)C)(C(C)C)C#CC1=C2C=C3C=CC=CC3=CC2=C(C2=CC3=CC=CC=C3C=C12)C#C[Si](C(C)C)(C(C)C)C(C)C | C44H54Si2
